US04060528
A mixture of 14.7 parts of 2'-methyl-3'-(2-thenoyl)acetophenone, 4.3 parts of sulfur and 33 parts of morpholine is stirred and refluxed for 3 hours. The reaction mixture is cooled, diluted with 450 parts of chloroform and shaken successively twice with diluted hydrochloric acid solution and twice with water. The organic layer is dried and evaporated. The oily residue is boiled in a mixture of 200 parts of glacial acetic acid and 150 parts of a 50% sulfuric acid solution for 2 hours. After cooling, the mixture is poured onto 700 parts of ice-water and the product is extracted twice with ether. The combined extracts are washed with water, dried, stirred with activated charcoal, filtered and evaporated. The residue is taken up in 200 parts of water, alkalized with diluted sodium hydroxide solution and washed twice with ether. The aqueous phase is acidified with concentrated hydrochloric acid solution and the product is extracted twice with ether. The extracts are dried and evaporated. The residue is purified by column-chromatography over silica gel, using a mixture of chloroform and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is dissolved in ether and the solution is stirred with activated charcoal. The latter is filtered off and the filtrate is evaporated. The residue is crystallized from acetonitrile at -20° C, yielding a 2-[3-(2-thenoyl)-o-tolyl]acetic acid; m.p. 136° C.

reactant | 2'-methyl-3'-(2-thenoyl)acetophenone | CC1=C(C=CC=C1C(C1=CC=CS1)=O)C(C)=O | C14H12O2S
reactant | sulfur | [S] | S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(2-thenoyl)-o-tolyl]acetic acid | C1(=CC=CS1)C(=O)C=1C(=C(C=CC1)C)CC(=O)O | C14H12O3S
